US07767675B2
Step 3. 6-[2-(1H-pyrazol-4-yl)imidazo[1,2-b][1,2,4]triazin-7-yl]methylquinoline
A mixture of 6-[1-(1-ethoxyethyl)-1H-pyrazol-4-yl]-1,2,4-triazin-3-amine (390.0 mg, 1.665 mmol) and 2-chloro-3-quinolin-6-ylpropanal (480 mg, 2.2 mmol) in isopropyl alcohol (20 mL) was heated at 110° C. for 2 days. After cooling to RT, 0.2 mL of concentrated HCl was added and stirred until completely deprotected. The solid formed was collected by filtration to give the desired product (0.35 g, 64%). LCMS: (M+H)=328.3.

reactant | 6-[1-(1-ethoxyethyl)-1H-pyrazol-4-yl]-1,2,4-triazin-3-amine | 1.665 mmol, 390.0 mg | C(C)OC(C)N1N=CC(=C1)C1=CN=C(N=N1)N | C10H14N6O
reactant | 2-chloro-3-quinolin-6-ylpropanal | 2.2 mmol, 480 mg | ClC(C=O)CC=1C=C2C=CC=NC2=CC1 | C12H10ClNO
reactant | HCl | 0.2 mL | Cl | ClH
solvent | isopropyl alcohol | 20 mL | C(C)(C)O | C3H8O
product | 6-[2-(1H-pyrazol-4-yl)imidazo[1,2-b][1,2,4]triazin-7-yl]methylquinoline | 0.35 g, 64% | N1N=CC(=C1)C=1C=NC=2N(N1)C(=CN2)CC=2C=C1C=CC=NC1=CC2 | C18H13N7
